US08835428B2
Step 2: (Z)-4-(benzyloxy)benzaldehyde oxime
To 4-(benzyloxy)benzaldehyde (12.9 g) in MeOH (129 ml), Hydroxylamine hydrochloride (6.34 g) was added and the reaction mixture was refluxed for 3 hours and then cooled. The reaction mixture was concentrated to obtain pale brown residue. To this residue, water was added and it was extracted with EtOAc. Organic layer was collected, dried over Na2SO4 and concentrated to obtain off white solid, which was crystallized from DCM-Petroleum ether to obtain the title compound as white solid. Yield: 11.5 g (83%); 1HNMR (DMSO-d6; 300 MHz): δ 10.98 (s, 1H), 8.06 (s, 1H), 7.53 (d, 2H), 7.33-7.46 (m, 5H), 7.05 (d, 2H), 5.13 (s, 2H).

reactant | 4-(benzyloxy)benzaldehyde | 12.9 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | Hydroxylamine hydrochloride | 6.34 g | Cl.NO
reactant | water | O | H2O
solvent | MeOH | 129 ml | CO | CH4O
product | (Z)-4-(benzyloxy)benzaldehyde oxime | C(C1=CC=CC=C1)OC1=CC=C(\C=N/O)C=C1 | C14H13NO2
